US04235776
PREPARATION OF DL-5-DIETHYLAMINO-4,5,6,7-TETRAHYDRO-2H-BENZO[c]PYRROLE
Following the above procedure but substituting propionaldehyde for acetaldehyde, dl-5-di-n-propylamino-4,5,6,7-tetrahydro-2H-benzo[c]pyrrole maleate was prepared, melting at 134°-136° C. after recrystallization from an isopropanol-ether solvent mixture.

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | dl-5 di-n-propylamino-4,5,6,7-tetrahydro-2H-benzo[c]pyrrole maleate | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(\C=C/C(=O)O)(=O)O.C(CC)N(CCC)C=1NC=C2C1CCCC2
product | DL-5 DIETHYLAMINO-4,5,6,7-TETRAHYDRO-2H-BENZO[c]PYRROLE | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(C)N(CC)C=1NC=C2C1CCCC2 | InChI=1S/C18H34N4O2.C12H20N2/c1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19;1-3-14(4-2)12-11-8-6-5-7-10(11)9-13-12/h6-7,14,20-23H,2-5,8-13,15,19H2,1H3;9,13H,3-8H2,1-2H3
